US04180583
4'-Dimethylamino-4-[4-(diphenylmethylene)piperidino]butyrophenone
A mixture of 3 g (0.0065 mole) of 4'-dimethylamino-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride, 150 ml of ethanol and 150 ml of 37% HCl was heated on a steam bath about 4 hours. The solvent and excess acid were removed. The remaining solid was recrystallized from methanol-butanone, converted to the free base, and recrystallized for benzene-hexane to give the desired product, M.P. 110°-112° C.

reactant | 4'-dimethylamino-4-[4-(α-hydroxy-α-phenylbenzyl)piperidino]butyrophenone hydrochloride | 0.0065 mole, 3 g | Cl.CN(C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O)C
reactant | HCl | 150 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4'-Dimethylamino-4-[4-(diphenylmethylene)piperidino]butyrophenone | CN(C1=CC=C(C=C1)C(CCCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C30H34N2O
